US09102591B2
2,3-Dichloro-N-(2-(1-methyl-1H-pyrazol-4-yl)-2-(tetrahydro-2H-pyran-4-yl)ethyl)benzamide
From 2,3-dichlorobenzoic acid and 2-(1-methyl-1H-pyrazol-4-yl)-2-(tetrahydro-2H-pyran-4-yl)ethanamine. LCMS (MH+): m/z=382.0, tR (minutes, Method E)=0.52

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(1-methyl-1H-pyrazol-4-yl)-2-(tetrahydro-2H-pyran-4-yl)ethanamine | CN1N=CC(=C1)C(CN)C1CCOCC1 | C11H19N3O
product | 2,3-Dichloro-N-(2-(1-methyl-1H-pyrazol-4-yl)-2-(tetrahydro-2H-pyran-4-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C2CCOCC2)C=2C=NN(C2)C)C=CC=C1Cl | C18H21Cl2N3O2
